### PR TITLE
feat: dominated moves, reversible moves, and gift horses

### PR DESCRIPTION
**Pull request by plp127**

### CODE REVIEW

File: CombinatorialGames/Game/Reductions.lean [hunk 1]
```diff
@@ -0,0 +1,164 @@
...
+
+namespace IGame
+
+theorem equiv_of_dominated_left {u v r : Set IGame.{u}} [Small.{u} u] [Small.{u} v] [Small.{u} r]
+    (hu : ∀ g ∈ u, ∃ g' ∈ v, g ≤ g') : {u ∪ v | r}ᴵ ≈ {v | r}ᴵ := by
+  apply equiv_of_exists_le <;> aesop
+
+theorem equiv_of_dominated_right {l u v : Set IGame.{u}} [Small.{u} l] [Small.{u} u] [Small.{u} v]
+    (hu : ∀ g ∈ u, ∃ g' ∈ v, g' ≤ g) : {l | u ∪ v}ᴵ ≈ {l | v}ᴵ := by
+  apply equiv_of_exists_le <;> aesop
```
[the remark this answers is not in the document]
Comment (tristan-f-r) [reply CombinatorialGames/Game/Reductions.lean:24]: Or, should we have some kind of `Canonical` typeclass with a proof attached that the associated `IGame` has the least birthday in its equivalence class?

File: CombinatorialGames/Game/Reductions.lean [hunk 2]
```diff
@@ -0,0 +1,164 @@
...
+          refine not_le_of_not_le_of_le ?_ (hbb i)
+          apply lf_of_le_leftMove le_rfl
+          rwa [leftMoves_ofSets] at hz ⊢
+        · intro z hz
+          apply lf_of_rightMove_le le_rfl
+          rw [rightMoves_ofSets]
+          exact .inl (Set.mem_iUnion_of_mem i hz)
+      · apply lf_of_rightMove_le le_rfl
+        rw [rightMoves_ofSets]
+        exact .inr hz
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Reductions.lean]: My initial golf of `equiv_of_bypass` which requires `Mathlib.Algebra.Group.Pointwise.Set.Lattice`. I can't find the essence of `equiv_of_bypass_left` in this proof, but some extension of the lemma `leftMove_lf` for `ofSets` should golf this down considerably more. Though, that's more of a question of if we want `ofSets` variants for any lemmas that use left/right sets membership.

```suggestion
theorem equiv_of_bypass_left {ι : Type u} {l r : Set IGame.{u}} [Small.{u} l] [Small.{u} r]
    {c cr : ι → IGame.{u}} (hbb : ∀ i, cr i ≤ {Set.range c ∪ l | r}ᴵ)
    (hcr : ∀ i, cr i ∈ (c i).rightMoves) :
    {Set.range c ∪ l | r}ᴵ ≈ {(⋃ i, (cr i).leftMoves) ∪ l | r}ᴵ := by
  constructor <;> dsimp <;> rw [le_iff_forall_lf]
  all_goals refine ⟨fun z hz ↦ ?_, fun z hz ↦ lf_rightMove hz⟩; rw [leftMoves_ofSets] at hz
  · obtain ⟨i, rfl⟩ | hz := hz
    · refine lf_of_rightMove_le ?_ (hcr i)
      rw [le_iff_forall_lf]
      refine ⟨fun z hz ↦ leftMove_lf ?_, fun z hz ↦ lf_rightMove_of_le (hbb i) hz⟩
      rw [leftMoves_ofSets]
      exact .inl (Set.mem_iUnion_of_mem i hz)
    · apply leftMove_lf
      rw [leftMoves_ofSets]
      exact .inr hz
  · obtain ⟨-, ⟨i, rfl⟩, hz⟩ | hz := hz
    · exact not_le_of_not_le_of_le (leftMove_lf hz) (hbb i)
    · apply leftMove_lf
      rw [leftMoves_ofSets]
      exact .inr hz

theorem equiv_of_bypass_right {ι : Type u} {l r : Set IGame.{u}} [Small.{u} l] [Small.{u} r]
    {d dl : ι → IGame.{u}} (hbb : ∀ i, {l | Set.range d ∪ r}ᴵ ≤ dl i)
    (hdl : ∀ i, dl i ∈ (d i).leftMoves) :
    {l | Set.range d ∪ r}ᴵ ≈ {l | (⋃ i, (dl i).rightMoves) ∪ r}ᴵ := by
  rw [← neg_equiv_neg_iff]
  simp_rw [neg_ofSets, Set.union_neg, Set.neg_range, Set.iUnion_neg, ← leftMoves_neg]
  apply equiv_of_bypass_left <;> intro i
  · rw [← IGame.neg_le_neg_iff]
    simpa [Set.neg_range] using hbb i
  · rw [rightMoves_neg, Set.mem_neg, neg_neg]
    exact hdl i
```

File: CombinatorialGames/Game/Reductions.lean [hunk 3]
```diff
@@ -0,0 +1,164 @@
...
+  · dsimp
+    rw [le_iff_forall_lf]
+    constructor
+    · intro z hz
+      apply lf_of_le_leftMove le_rfl
+      rwa [leftMoves_ofSets] at hz ⊢
+    · intro z hz
+      apply lf_of_rightMove_le le_rfl
+      rw [rightMoves_ofSets] at hz ⊢
+      exact .inr hz
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Reductions.lean]: (The same golfing patterns above can be used here as well)

```suggestion
theorem equiv_of_gift_left {gs l r : Set IGame.{u}} [Small.{u} gs] [Small.{u} l] [Small.{u} r]
    (hg : ∀ g ∈ gs, ¬{l | r}ᴵ ≤ g) : {l | r}ᴵ ≈ {gs ∪ l | r}ᴵ := by
  constructor
  all_goals dsimp; rw [le_iff_forall_lf]; constructor <;> intro z hz
  · apply leftMove_lf
    rw [leftMoves_ofSets] at hz ⊢
    exact .inr hz
  · exact lf_rightMove hz
  · rw [leftMoves_ofSets] at hz
    obtain hz | hz := hz
    · exact hg z hz
    · apply leftMove_lf
      rwa [leftMoves_ofSets]
  · exact lf_rightMove hz

theorem equiv_of_gift_right {gs l r : Set IGame.{u}} [Small.{u} gs] [Small.{u} l] [Small.{u} r]
    (hg : ∀ g ∈ gs, ¬g ≤ {l | r}ᴵ) : {l | r}ᴵ ≈ {l | gs ∪ r}ᴵ := by
  rw [← neg_equiv_neg_iff]
  simp_rw [neg_ofSets, Set.union_neg]
  apply equiv_of_gift_left
  intro g' hg'
  rw [← IGame.neg_le_neg_iff]
  simpa using hg (-g') hg'
```

**Comment by vihdzp** [comment]
(I'd love to review this, can you please review the golfs first?)

File: CombinatorialGames/Game/Reductions.lean [hunk 4]
```diff
@@ -0,0 +1,101 @@
...
+
+We prove that dominated moves can be deleted and reversible moves can be bypassed.
+-/
+
+universe u
+
+namespace IGame
+
+theorem equiv_of_dominated_left {u v r : Set IGame.{u}} [Small.{u} u] [Small.{u} v] [Small.{u} r]
+    (hu : ∀ g ∈ u, ∃ g' ∈ v, g ≤ g') : {u ∪ v | r}ᴵ ≈ {v | r}ᴵ := by
```
Comment (vihdzp) [inline CombinatorialGames/Game/Reductions.lean]: I don't like how unions appear in the statement, since this makes it much harder to apply the lemma (you need to know the set has this precise form, or tediously rewrite it so that it does). 

Why not something like this, "{u | r} ≈ {v | r} when v is a subset of u, and every element in u is dominated by some element in v"? Though really, that would then be a special case of "{u | r} ≈ {v | r} when every element in u is dominated by some element in v all, and vice versa". And that would just be a special case of `equiv_of_exists_le` when the right sets of both games are equal. So maybe that's the statement you should prove instead?

File: CombinatorialGames/Game/Reductions.lean [hunk 5]
```diff
@@ -0,0 +1,101 @@
...
+  apply equiv_of_exists_le <;> aesop
+
+theorem equiv_of_dominated_right {l u v : Set IGame.{u}} [Small.{u} l] [Small.{u} u] [Small.{u} v]
+    (hu : ∀ g ∈ u, ∃ g' ∈ v, g' ≤ g) : {l | u ∪ v}ᴵ ≈ {l | v}ᴵ := by
+  apply equiv_of_exists_le <;> aesop
+
+theorem equiv_of_bypass_left {ι : Type u} {l r : Set IGame.{u}} [Small.{u} l] [Small.{u} r]
+    {c cr : ι → IGame.{u}} (hbb : ∀ i, cr i ≤ {Set.range c ∪ l | r}ᴵ)
+    (hcr : ∀ i, cr i ∈ (c i).rightMoves) :
+    {Set.range c ∪ l | r}ᴵ ≈ {(⋃ i, (cr i).leftMoves) ∪ l | r}ᴵ := by
```
Comment (vihdzp) [inline CombinatorialGames/Game/Reductions.lean]: I don't like this statement for many of the same reasons (but worse!) But I don't know how I'd restate it to make it better. Hmm...

File: CombinatorialGames.lean [hunk 6]
```diff
@@ -16,6 +16,7 @@ import CombinatorialGames.Game.Loopy.StoppingTime
 import CombinatorialGames.Game.Order
 import CombinatorialGames.Game.Ordinal
 import CombinatorialGames.Game.Player
+import CombinatorialGames.Game.Reductions
```
Comment (vihdzp) [inline CombinatorialGames.lean]: What do you think about putting this on the beginning of the `Canonical` file? That way we can use this in order to prove stuff about `undominate`/`unreverse`/`canonical`.

File: CombinatorialGames/Game/Reductions.lean [hunk 7]
```diff
@@ -0,0 +1,113 @@
...
+# Game reductions
+
+We prove that dominated moves can be deleted and reversible moves can be bypassed.
+-/
+
+universe u v
+
+namespace IGame
+open Set
+
```
Comment (vihdzp) [inline CombinatorialGames/Game/Reductions.lean:24]:
```suggestion

variable {l r u v w : Set IGame.{u}}
  [Small.{u} l] [Small.{u} u] [Small.{u} r] [Small.{u} v] [Small.{u} w]

```

File: CombinatorialGames/Game/Reductions.lean [hunk 8]
```diff
@@ -0,0 +1,113 @@
...
+theorem equiv_of_dominated_left {u v w r : Set IGame.{u}}
```
Comment (vihdzp) [inline CombinatorialGames/Game/Reductions.lean]: I think all of these theorems should have docstrings explaining what's going on. What do you think about this?
```suggestion
/-- If `w = u ∪ v` where every move in `u` is dominated by (or equivalent to) a move in `v`,
then `{w | r} ≈ {v | r}`. -/
theorem equiv_of_dominated_left {u v w r : Set IGame.{u}}
```

File: CombinatorialGames/Game/Reductions.lean [hunk 9]
```diff
@@ -0,0 +1,113 @@
...
+    [Small.{u} v] [Small.{u} w] [Small.{u} r]
+    (hu : ∀ g ∈ u, ∃ g' ∈ v, g ≤ g') (hw : w ∈ Icc v (u ∪ v)) : !{w | r} ≈ !{v | r} := by
+  apply equiv_of_exists_le <;> simp only [moves_ofSets, Player.cases]
```
Comment (vihdzp) [inline CombinatorialGames/Game/Reductions.lean]: Small golf:
```suggestion
  apply equiv_of_exists_le <;> simp only [moves_ofSets] <;> intro z hz
```

File: CombinatorialGames/Game/Reductions.lean [hunk 10]
```diff
@@ -0,0 +1,113 @@
...
+theorem equiv_of_dominated_right {l u v w : Set IGame.{u}}
+    [Small.{u} l] [Small.{u} u] [Small.{u} v] [Small.{u} w]
+    (hu : ∀ g ∈ u, ∃ g' ∈ v, g' ≤ g) (hw : w ∈ Icc v (u ∪ v)) : !{l | w} ≈ !{l | v} := by
+  apply equiv_of_exists_le <;> simp only [moves_ofSets, Player.cases]
+  · exact fun z hz => ⟨z, hz, le_rfl⟩
+  · exact fun z hz => (hw.2 hz).elim (fun hz => hu z hz) (fun hz => ⟨z, hz, le_rfl⟩)
+  · exact fun z hz => ⟨z, hz, le_rfl⟩
+  · exact fun z hz => ⟨z, hw.1 hz, le_rfl⟩
+
+theorem equiv_of_bypass_left {ι : Type v} {l r u v : Set IGame.{u}}
```
Comment (vihdzp) [inline CombinatorialGames/Game/Reductions.lean]: This is my best attempt at explaining this.
```suggestion
/-- If each of the moves `c i ∈ u` in `{u | r}` is bypassed by `cr i ∈ (c i)ᴿ`, the game `{v | r}`
which replaces each `c i` by the set of moves `(cr i)ᴸ` is equivalent. -/
theorem equiv_of_bypass_left {ι : Type v} {l r u v : Set IGame.{u}}
```

File: CombinatorialGames/Game/Reductions.lean [hunk 11]
```diff
@@ -0,0 +1,113 @@
...
+    obtain hz | hz := hz
+    · simp only [mem_preimage, mem_iUnion, exists_prop] at hz
+      obtain ⟨i, hi, hz⟩ := hz
+      exact fun h => left_lf hz ((hbb i).trans h)
+    · apply left_lf
+      rw [leftMoves_ofSets]
+      exact hu.1 hz
+  · intro z hz
+    apply lf_right
+    simpa using hz
```
Comment (vihdzp) [inline CombinatorialGames/Game/Reductions.lean]: Light golfing:
```suggestion
  subst hv
  apply equiv_of_forall_lf <;> simp only [moves_ofSets, Player.cases] <;> intro z hz
  · obtain ⟨i, rfl⟩ | hzu := hu.2 hz
    · refine lf_of_right_le (le_iff_forall_lf.2 ⟨?_, ?_⟩) (hcr i) <;> intro z hz'
      · apply left_lf
        rw [leftMoves_ofSets]
        exact .inl (mem_biUnion hz hz')
      · refine fun h => lf_right ?_ (h.trans (hbb i))
        simpa using hz'
    · apply left_lf
      rw [leftMoves_ofSets]
      exact .inr hzu
  · apply lf_right
    simpa using hz
  · rw [mem_union, mem_iUnion₂] at hz
    obtain ⟨i, hi, hz⟩ | hz := hz
    · exact fun h => left_lf hz ((hbb i).trans h)
    · apply left_lf
      rw [leftMoves_ofSets]
      exact hu.1 hz
  · apply lf_right
    simpa using hz
```

File: CombinatorialGames/Game/Reductions.lean [hunk 12]
```diff
@@ -0,0 +1,113 @@
...
+    (hu : u ∈ Icc r (range d ∪ r)) (hv : v = (⋃ i ∈ d ⁻¹' u, (dl i).moves right) ∪ r) :
+    !{l | u} ≈ !{l | v} := by
+  rw [← neg_equiv_neg_iff, neg_ofSets, neg_ofSets]
+  refine @equiv_of_bypass_left ι (-r) (-l) (-u) (-v) _ _ _ _ (-d) (-dl) ?_ ?_ ?_ ?_
+  · simpa [← neg_ofSets] using hbb
+  · simpa using hdl
+  · simpa [neg_subset, neg_range] using hu
+  · simpa [neg_eq_iff_eq_neg] using hv
+
+theorem equiv_of_gift_left {gs l r u : Set IGame.{u}} [Small.{u} l] [Small.{u} r] [Small.{u} u]
```
Comment (vihdzp) [inline CombinatorialGames/Game/Reductions.lean]: Maybe?
```suggestion
/-- If each of the moves `gs ⊆ u` is a gift horse for `{l | r}`, then the game `{u | r}` which
removes them is equivalent. -/
theorem equiv_of_gift_left {gs l r u : Set IGame.{u}} [Small.{u} l] [Small.{u} r] [Small.{u} u]
```

File: CombinatorialGames/Game/Reductions.lean [hunk 13]
```diff
@@ -0,0 +1,113 @@
...
+    (hg : ∀ g ∈ gs, ¬!{l | r} ≤ g) (hu : u ∈ Icc l (gs ∪ l)) : !{l | r} ≈ !{u | r} := by
+  apply equiv_of_forall_lf <;> simp only [moves_ofSets, Player.cases]
```
Comment (vihdzp) [inline CombinatorialGames/Game/Reductions.lean]:
```suggestion
  apply equiv_of_forall_lf <;> simp only [moves_ofSets] <;> intro z hz
```

**Review by vihdzp — COMMENTED** [review]
This looks much better. Some small notes.

File: CombinatorialGames.lean (hunk 6 above)
Comment (plp127) [reply CombinatorialGames.lean]: I think we can add the import when the results are being used.

File: CombinatorialGames/Game/Reductions.lean (hunk 7 above)
Comment (plp127) [reply CombinatorialGames/Game/Reductions.lean:24]: It turns out some of those `Small` assumptions don't appear sometimes on the theorems
